US03933824
To a solution of 10.8 g of phenylhydrazine in 100 ml of 30 % aqueous acetic acid was added 27.4 g of 1-(γ-acetylbutyryl)-4-phenylpiperazine and the resulting mixture was stirred for 30 minutes at room temperature. The precipitate was filtered, and washed with water. The precipitate was added to 180 ml of 5 % ethanolic hydrogen chloride, and the mixture was heated under reflux for 4 hours. The solvent was distilled off under reduced pressure to the residue, to which was added 100 ml of water. The resulting solid substance was recrystallized from ethanol to give 1-[β-(2-methyl-3-indolyl)propionyl]-4-phenylpiperazine, melting at 120°-121°C.

reactant | phenylhydrazine | 10.8 g | C1(=CC=CC=C1)NN | C6H8N2
reactant | 1-(γ-acetylbutyryl)-4-phenylpiperazine | 27.4 g | C(C)(=O)CCCC(=O)N1CCN(CC1)C1=CC=CC=C1 | C16H22N2O2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 1-[β-(2-methyl-3-indolyl)propionyl]-4-phenylpiperazine | CC=1NC2=CC=CC=C2C1CCC(=O)N1CCN(CC1)C1=CC=CC=C1 | C22H25N3O
